* RC Lowpass Filter
V1 vi 0 PULSE(-1 1 0 20m 1u 1u 20m)
C21 vi vl 220n IC=0
C22 vl vo 220n IC=0
L1 vl 0 3h IC=0
R9 vo 0 5.1k
.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
Escaled vo_scaled 0 value = {V(vo)*0.2} ; netlist_skip
.wav "vout.wav" 32 48k vo_scaled
.options plotwinsize=0
.backanno
.end
